US07989450B2
3-(Furan-2-yl)-4-phenyl-5-methylisoxazole
A solution of EtOH (2 ml) containing 3-(5-chlorofuran-2-yl)-4-phenyl-5-methylisoxazole (97 mg, 0.374 mmoles), PtO2 (5 mg) is kept in an atmosphere of H2 (1 atm) at ambient temperature, stirring for 7 h. The catalyst is then filtered on celite and the solvent is evaporated at reduced pressure. The residue is crystallised from hexane. A white powder is obtained with 89% yield and a m.p. 93-96° C. (hexane). FT-IR (KBr): 3149, 3122, 3059, 2962, 2925, 2853, 1633, 1605, 1511, 1496, 1448, 1438, 1417, 1239, 1225, 1176, 1070, 1020, 976, 923, 891, 782, 714, 700 cm−1. 1H NMR (400 MHz, CDCl3, δ): 7.47-7.41 (m, 4H, aromatic protons); 7.31-7.28 (m, 2H, aromatic protons); 6.37-6.35 (dd, 1H, J=3.3 Hz, J=1.8 Hz, furyl proton); 6.34-6.33 (d, 1H, J=3.3 Hz, furyl proton); 2.39 (s, 3H). 13C NMR (100 MHz, CDCl3, δ): 166.6, 153.1, 144.0, 143.6, 130.0, 129.8, 128.7, 128.1, 114.9, 111.5, 111.1, 11.2. GC-MS (70 eV) m/z (rel.int.): 225 (M+, 40), 184 (14), 183 (100), 154 (17), 127 (13), 102 (12), 43 (11). Anal. Calc. for C14H11NO2: C, 74.65; H, 4.92; N, 6.22; O, 14.21. Found: C, 74.48; H, 4.94; N, 6.19.

reactant | EtOH | 2 ml | CCO | C2H6O
reactant | 3-(5-chlorofuran-2-yl)-4-phenyl-5-methylisoxazole | 0.374 mmoles, 97 mg | ClC1=CC=C(O1)C1=NOC(=C1C1=CC=CC=C1)C | C14H10ClNO2
reactant | KBr | [K+].[Br-]
catalyst | PtO2 | 5 mg | O=[Pt]=O
solvent | hexane | CCCCCC | C6H14
product | 3-(Furan-2-yl)-4-phenyl-5-methylisoxazole | 89% yield | O1C(=CC=C1)C1=NOC(=C1C1=CC=CC=C1)C | C14H11NO2
